US05145858
2-[4-(2-Methyl-propenylthio)phenyl]-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole.
A solution of 5 g (17 mmoles) of 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]-imidazole in dry tetrahydrofuran is treated at -20° C. with a solution of 17 mmoles of lithium diethylamide from 6.8 ml of 2.5 M n butyl lithium. After warming, a solution of 1.57 g (17 mmoles) of trimethylsilylmethylchloride in tetrahydrofuran is added dropwise. When the reaction is complete, the mixture is immersed in an ice bath and a second solution (17 mmoles) of lithium diethylamide is added. After stirring for 15 minutes, a solution of 0.99 g (17 mmoles) of acetone in tetrahydrofuran is added, and the mixture is stirred 15 minutes at 0° and 15 minutes at 25° C. The mixture is poured into water, extracted with methylene chloride, and the organic layer dried, and chromatographed on silica to afford the desired titled compound.

reactant | 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]-imidazole | 17 mmoles, 5 g | SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C17H15N3S
reactant | lithium diethylamide | 17 mmoles | C(C)[N-]CC.[Li+]
reactant | butyl lithium | C(CCC)[Li]
reactant | trimethylsilylmethylchloride | 17 mmoles, 1.57 g | C[Si](C)(C)CCl | C4H11ClSi
reactant | lithium diethylamide | 17 mmoles | C(C)[N-]CC.[Li+]
reactant | acetone | 17 mmoles, 0.99 g | CC(=O)C | C3H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[4-(2-Methyl-propenylthio)phenyl]-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | CC(=CSC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2)C | C21H21N3S
